US06693123B2
Tin(II) dichloride dihydrate (157 g, 696 mmol) was added to a solution of (4-nitro-2-phenylbenzoyl)methionine methyl ester (67.9 g, 175 mmol) in 500 mL ethyl acetate and the reaction mixture was heated at reflux for 1 hour. The reaction mixture was cooled to ambient temperature and stirring was continuted for 18 hours. The reaction mixture was concentrated to 200 mL, and 500 mL H2O was added. Solid NaHCO3 was added to pH 8 before extracting with ethyl acetate. The ethyl acetate extract were washed with 5% NaHCO3 and brine, dried over Na2SO4, and concentrated. The residue was dissolved in ether with a minimum of ethyl acetate added to keep the material in solution and treated with anhydrous HCl. The solid was collected and washed with ether to provide (4-amino-2-phenylbenzoyl)methionine methyl ester hydrochloride in 83% yield. MS m/e 359 (M+H)+. 1H NMR (d6-DMSO, 300 MHz) δ 1.83 (m, 2H), 1.99 (s, 3H), 2.23 (m, 2H), 3.63 (s, 3H), 4.33 (m, 1H), 7.03 (m, 2H), 7.35 (m, 6H), 7.48 (d, J=8 Hz, 1H).

reactant | Tin(II) dichloride dihydrate | 696 mmol, 157 g | O.O.[Sn](Cl)Cl
reactant | (4-nitro-2-phenylbenzoyl)methionine methyl ester | 175 mmol, 67.9 g | COC([C@@H](NC(C1=C(C=C(C=C1)[N+](=O)[O-])C1=CC=CC=C1)=O)CCSC)=O | C19H20N2O5S
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | (4-amino-2-phenylbenzoyl)methionine methyl ester hydrochloride | 83% yield | Cl.COC([C@@H](NC(C1=C(C=C(C=C1)N)C1=CC=CC=C1)=O)CCSC)=O | InChI=1S/C19H22N2O3S.ClH/c1-24-19(23)17(10-11-25-2)21-18(22)15-9-8-14(20)12-16(15)13-6-4-3-5-7-13;/h3-9,12,17H,10-11,20H2,1-2H3,(H,21,22);1H/t17-;/m0./s1
